Simulation of digital counter circuit synthesized with Yosys

** opencircuitdesign pdks install
.lib "/foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/foss/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.include single_row_adc_synth.model

* Instantiate the single_row_adc
XADC clk reset comp.0 comp.1 comp.2 comp.3 comp.4 comp.5 comp.6 comp.7 comp.8 comp.9 comp.10 comp.11 comp.12 comp.13 comp.14 comp.15 comp.16 comp.17 comp.18 comp.19 comp.20 comp.21 comp.22 comp.23 comp.24 comp.25 comp.26 comp.27 comp.28 comp.29 comp.30 comp.31 comp.32 comp.33 comp.34 comp.35 comp.36 comp.37 comp.38 comp.39 comp.40 comp.41 comp.42 comp.43 comp.44 comp.45 comp.46 comp.47 comp.48 comp.49 stored_values.0 stored_values.1 stored_values.2 stored_values.3 stored_values.4 stored_values.5 stored_values.6 stored_values.7 stored_values.8 stored_values.9 stored_values.10 stored_values.11 stored_values.12 stored_values.13 stored_values.14 stored_values.15 stored_values.16 stored_values.17 stored_values.18 stored_values.19 stored_values.20 stored_values.21 stored_values.22 stored_values.23 stored_values.24 stored_values.25 stored_values.26 stored_values.27 stored_values.28 stored_values.29 stored_values.30 stored_values.31 stored_values.32 stored_values.33 stored_values.34 stored_values.35 stored_values.36 stored_values.37 stored_values.38 stored_values.39 stored_values.40 stored_values.41 stored_values.42 stored_values.43 stored_values.44 stored_values.45 stored_values.46 stored_values.47 stored_values.48 stored_values.49 stored_values.50 stored_values.51 stored_values.52 stored_values.53 stored_values.54 stored_values.55 stored_values.56 stored_values.57 stored_values.58 stored_values.59 stored_values.60 stored_values.61 stored_values.62 stored_values.63 stored_values.64 stored_values.65 stored_values.66 stored_values.67 stored_values.68 stored_values.69 stored_values.70 stored_values.71 stored_values.72 stored_values.73 stored_values.74 stored_values.75 stored_values.76 stored_values.77 stored_values.78 stored_values.79 stored_values.80 stored_values.81 stored_values.82 stored_values.83 stored_values.84 stored_values.85 stored_values.86 stored_values.87 stored_values.88 stored_values.89 stored_values.90 stored_values.91 stored_values.92 stored_values.93 stored_values.94 stored_values.95 stored_values.96 stored_values.97 stored_values.98 stored_values.99 stored_values.100 stored_values.101 stored_values.102 stored_values.103 stored_values.104 stored_values.105 stored_values.106 stored_values.107 stored_values.108 stored_values.109 stored_values.110 stored_values.111 stored_values.112 stored_values.113 stored_values.114 stored_values.115 stored_values.116 stored_values.117 stored_values.118 stored_values.119 stored_values.120 stored_values.121 stored_values.122 stored_values.123 stored_values.124 stored_values.125 stored_values.126 stored_values.127 stored_values.128 stored_values.129 stored_values.130 stored_values.131 stored_values.132 stored_values.133 stored_values.134 stored_values.135 stored_values.136 stored_values.137 stored_values.138 stored_values.139 stored_values.140 stored_values.141 stored_values.142 stored_values.143 stored_values.144 stored_values.145 stored_values.146 stored_values.147 stored_values.148 stored_values.149 stored_values.150 stored_values.151 stored_values.152 stored_values.153 stored_values.154 stored_values.155 stored_values.156 stored_values.157 stored_values.158 stored_values.159 stored_values.160 stored_values.161 stored_values.162 stored_values.163 stored_values.164 stored_values.165 stored_values.166 stored_values.167 stored_values.168 stored_values.169 stored_values.170 stored_values.171 stored_values.172 stored_values.173 stored_values.174 stored_values.175 stored_values.176 stored_values.177 stored_values.178 stored_values.179 stored_values.180 stored_values.181 stored_values.182 stored_values.183 stored_values.184 stored_values.185 stored_values.186 stored_values.187 stored_values.188 stored_values.189 stored_values.190 stored_values.191 stored_values.192 stored_values.193 stored_values.194 stored_values.195 stored_values.196 stored_values.197 stored_values.198 stored_values.199 stored_values.200 stored_values.201 stored_values.202 stored_values.203 stored_values.204 stored_values.205 stored_values.206 stored_values.207 stored_values.208 stored_values.209 stored_values.210 stored_values.211 stored_values.212 stored_values.213 stored_values.214 stored_values.215 stored_values.216 stored_values.217 stored_values.218 stored_values.219 stored_values.220 stored_values.221 stored_values.222 stored_values.223 stored_values.224 stored_values.225 stored_values.226 stored_values.227 stored_values.228 stored_values.229 stored_values.230 stored_values.231 stored_values.232 stored_values.233 stored_values.234 stored_values.235 stored_values.236 stored_values.237 stored_values.238 stored_values.239 stored_values.240 stored_values.241 stored_values.242 stored_values.243 stored_values.244 stored_values.245 stored_values.246 stored_values.247 stored_values.248 stored_values.249 stored_values.250 stored_values.251 stored_values.252 stored_values.253 stored_values.254 stored_values.255 stored_values.256 stored_values.257 stored_values.258 stored_values.259 stored_values.260 stored_values.261 stored_values.262 stored_values.263 stored_values.264 stored_values.265 stored_values.266 stored_values.267 stored_values.268 stored_values.269 stored_values.270 stored_values.271 stored_values.272 stored_values.273 stored_values.274 stored_values.275 stored_values.276 stored_values.277 stored_values.278 stored_values.279 stored_values.280 stored_values.281 stored_values.282 stored_values.283 stored_values.284 stored_values.285 stored_values.286 stored_values.287 stored_values.288 stored_values.289 stored_values.290 stored_values.291 stored_values.292 stored_values.293 stored_values.294 stored_values.295 stored_values.296 stored_values.297 stored_values.298 stored_values.299 stored_values.300 stored_values.301 stored_values.302 stored_values.303 stored_values.304 stored_values.305 stored_values.306 stored_values.307 stored_values.308 stored_values.309 stored_values.310 stored_values.311 stored_values.312 stored_values.313 stored_values.314 stored_values.315 stored_values.316 stored_values.317 stored_values.318 stored_values.319 stored_values.320 stored_values.321 stored_values.322 stored_values.323 stored_values.324 stored_values.325 stored_values.326 stored_values.327 stored_values.328 stored_values.329 stored_values.330 stored_values.331 stored_values.332 stored_values.333 stored_values.334 stored_values.335 stored_values.336 stored_values.337 stored_values.338 stored_values.339 stored_values.340 stored_values.341 stored_values.342 stored_values.343 stored_values.344 stored_values.345 stored_values.346 stored_values.347 stored_values.348 stored_values.349 stored_values.350 stored_values.351 stored_values.352 stored_values.353 stored_values.354 stored_values.355 stored_values.356 stored_values.357 stored_values.358 stored_values.359 stored_values.360 stored_values.361 stored_values.362 stored_values.363 stored_values.364 stored_values.365 stored_values.366 stored_values.367 stored_values.368 stored_values.369 stored_values.370 stored_values.371 stored_values.372 stored_values.373 stored_values.374 stored_values.375 stored_values.376 stored_values.377 stored_values.378 stored_values.379 stored_values.380 stored_values.381 stored_values.382 stored_values.383 stored_values.384 stored_values.385 stored_values.386 stored_values.387 stored_values.388 stored_values.389 stored_values.390 stored_values.391 stored_values.392 stored_values.393 stored_values.394 stored_values.395 stored_values.396 stored_values.397 stored_values.398 stored_values.399 vss vss vdd vdd single_row_adc

* Voltage sources
.param vdd=1.8
Vvdd vdd 0 {vdd}

.param vss=0
Vvss vss 0 {vss}

** Clock and Reset signals (1MHz clock)
Vrst    reset   0   pulse   {vdd}   {vss}   2u      2n  2n  490u    500u
Vclk    clk     0   pulse   {vss}   {vdd}   200n    1n  1n  0.5u      1u

* Comparator signal (example: 5 comparators with random outputs)
* Here, we simulate random '1's and '0's for comparators, adjust as needed
Vcomp0 comp.0 0 pulse {vdd} {vss} 0 5n 5n 5u 259u
Vcomp1 comp.1 0 pulse {vdd} {vss} 0 5n 5n 10u 259u
Vcomp2 comp.2 0 pulse {vdd} {vss} 0 5n 5n 15u 259u
Vcomp3 comp.3 0 pulse {vdd} {vss} 0 5n 5n 20u 259u
Vcomp4 comp.4 0 pulse {vdd} {vss} 0 5n 5n 25u 259u
Vcomp5 comp.5 0 pulse {vdd} {vss} 0 5n 5n 30u 259u
Vcomp6 comp.6 0 pulse {vdd} {vss} 0 5n 5n 35u 259u
Vcomp7 comp.7 0 pulse {vdd} {vss} 0 5n 5n 40u 259u
Vcomp8 comp.8 0 pulse {vdd} {vss} 0 5n 5n 45u 259u
Vcomp9 comp.9 0 pulse {vdd} {vss} 0 5n 5n 50u 259u
Vcomp10 comp.10 0 pulse {vdd} {vss} 0 5n 5n 55u 259u
Vcomp11 comp.11 0 pulse {vdd} {vss} 0 5n 5n 60u 259u
Vcomp12 comp.12 0 pulse {vdd} {vss} 0 5n 5n 65u 259u
Vcomp13 comp.13 0 pulse {vdd} {vss} 0 5n 5n 70u 259u
Vcomp14 comp.14 0 pulse {vdd} {vss} 0 5n 5n 75u 259u
Vcomp15 comp.15 0 pulse {vdd} {vss} 0 5n 5n 80u 259u
Vcomp16 comp.16 0 pulse {vdd} {vss} 0 5n 5n 85u 259u
Vcomp17 comp.17 0 pulse {vdd} {vss} 0 5n 5n 90u 259u
Vcomp18 comp.18 0 pulse {vdd} {vss} 0 5n 5n 95u 259u
Vcomp19 comp.19 0 pulse {vdd} {vss} 0 5n 5n 100u 259u
Vcomp20 comp.20 0 pulse {vdd} {vss} 0 5n 5n 105u 259u
Vcomp21 comp.21 0 pulse {vdd} {vss} 0 5n 5n 110u 259u
Vcomp22 comp.22 0 pulse {vdd} {vss} 0 5n 5n 115u 259u
Vcomp23 comp.23 0 pulse {vdd} {vss} 0 5n 5n 120u 259u
Vcomp24 comp.24 0 pulse {vdd} {vss} 0 5n 5n 125u 259u
Vcomp25 comp.25 0 pulse {vdd} {vss} 0 5n 5n 130u 259u
Vcomp26 comp.26 0 pulse {vdd} {vss} 0 5n 5n 135u 259u
Vcomp27 comp.27 0 pulse {vdd} {vss} 0 5n 5n 140u 259u
Vcomp28 comp.28 0 pulse {vdd} {vss} 0 5n 5n 145u 259u
Vcomp29 comp.29 0 pulse {vdd} {vss} 0 5n 5n 150u 259u
Vcomp30 comp.30 0 pulse {vdd} {vss} 0 5n 5n 155u 259u
Vcomp31 comp.31 0 pulse {vdd} {vss} 0 5n 5n 160u 259u
Vcomp32 comp.32 0 pulse {vdd} {vss} 0 5n 5n 165u 259u
Vcomp33 comp.33 0 pulse {vdd} {vss} 0 5n 5n 170u 259u
Vcomp34 comp.34 0 pulse {vdd} {vss} 0 5n 5n 175u 259u
Vcomp35 comp.35 0 pulse {vdd} {vss} 0 5n 5n 180u 259u
Vcomp36 comp.36 0 pulse {vdd} {vss} 0 5n 5n 185u 259u
Vcomp37 comp.37 0 pulse {vdd} {vss} 0 5n 5n 190u 259u
Vcomp38 comp.38 0 pulse {vdd} {vss} 0 5n 5n 195u 259u
Vcomp39 comp.39 0 pulse {vdd} {vss} 0 5n 5n 200u 259u
Vcomp40 comp.40 0 pulse {vdd} {vss} 0 5n 5n 205u 259u
Vcomp41 comp.41 0 pulse {vdd} {vss} 0 5n 5n 210u 259u
Vcomp42 comp.42 0 pulse {vdd} {vss} 0 5n 5n 215u 259u
Vcomp43 comp.43 0 pulse {vdd} {vss} 0 5n 5n 220u 259u
Vcomp44 comp.44 0 pulse {vdd} {vss} 0 5n 5n 225u 259u
Vcomp45 comp.45 0 pulse {vdd} {vss} 0 5n 5n 230u 259u
Vcomp46 comp.46 0 pulse {vdd} {vss} 0 5n 5n 235u 259u
Vcomp47 comp.47 0 pulse {vdd} {vss} 0 5n 5n 240u 259u
Vcomp48 comp.48 0 pulse {vdd} {vss} 0 5n 5n 245u 259u
Vcomp49 comp.49 0 pulse {vdd} {vss} 0 5n 5n 250u 259u

*Rparallel comp.49 0 500Meg
*Cparallel comp.49 0 1p

** Simulation settings
*.control
.options method=gear trtol=1 rshunt=1G cshunt=0.1p *chgtol=1e-11 reltol=0.01 rshunt=1G rseries=0.05 cshunt=1p trtol=1
.tran 1n 6u
.save i(Vvdd) v(clk) v(reset) v(comp.0) v(stored_values.0) v(stored_values.1) v(stored_values.2) v(stored_values.3) v(stored_values.4) v(stored_values.5) v(stored_values.6) v(stored_values.7) 
* v(comp.1) v(comp.2) v(comp.3) v(comp.4) v(stored_values.8) v(stored_values.9) v(stored_values.10) v(stored_values.11) v(stored_values.12) v(stored_values.13) v(stored_values.14) v(stored_values.15) v(stored_values.16) v(stored_values.17) v(stored_values.18) v(stored_values.19) v(stored_values.20) v(stored_values.21) v(stored_values.22) v(stored_values.23) v(stored_values.24) v(stored_values.25) v(stored_values.26) v(stored_values.27) v(stored_values.28) v(stored_values.29) v(stored_values.30) v(stored_values.31) v(stored_values.32) v(stored_values.33) v(stored_values.34) v(stored_values.35) v(stored_values.36) v(stored_values.37) v(stored_values.38) v(stored_values.39)

*plot v(clk) 2+v(reset) 4+v(comp.0) 6+v(comp.1) 8+v(comp.2) 10+v(comp.3) 12+v(comp.4)
*plot v(stored_values.0) 2+v(stored_values.1) 4+v(stored_values.2) 6+v(stored_values.3) 8+v(stored_values.4) 10+v(stored_values.5) 12+v(stored_values.6) 14+v(stored_values.7)
*plot v(stored_values.8) 2+v(stored_values.9) 4+v(stored_values.10) 6+v(stored_values.11) 8+v(stored_values.12) 10+v(stored_values.13) 12+v(stored_values.14) 14+v(stored_values.15)
*plot v(stored_values.16) 2+v(stored_values.17) 4+v(stored_values.18) 6+v(stored_values.19) 8+v(stored_values.20) 10+v(stored_values.21) 12+v(stored_values.22) 14+v(stored_values.23)
*plot v(stored_values.24) 2+v(stored_values.25) 4+v(stored_values.26) 6+v(stored_values.27) 8+v(stored_values.28) 10+v(stored_values.29) 12+v(stored_values.30) 14+v(stored_values.31)
*plot v(stored_values.32) 2+v(stored_values.33) 4+v(stored_values.34) 6+v(stored_values.35) 8+v(stored_values.36) 10+v(stored_values.37) 12+v(stored_values.38) 14+v(stored_values.39)
*.endc

.END